US07407955B2
1-(2-{2-[(ethoxycarbonyl)methoxy]-phenyl}-2-oxo-ethyl)-3-methyl-7-(3-methyl-2-buten-1-yl)-8-(3-amino-piperidin-1-yl)-xanthine
A solution of 209 mg of 1-(2-{2-[(ethoxycarbonyl)methoxy]-phenyl}-2-oxo-ethyl)-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine in 4 ml methylene chloride is combined with 1 ml of trifluoroacetic acid and stirred for half an hour at ambient temperature. For working up the reaction mixture is diluted with methylene chloride and washed with saturated potassium carbonate solution. The organic phase is dried, evaporated down and chromatographed through a silica gel column with methylene chloride/methanol (1:0 to 4:1) as eluant.

reactant | 1-(2-{2-[(ethoxycarbonyl)methoxy]-phenyl}-2-oxo-ethyl)-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | 209 mg | C(C)OC(=O)COC1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC=C(C)C)N1CC(CCC1)NC(=O)OC(C)(C)C)C)=O | C33H44N6O8
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-{2-[(ethoxycarbonyl)methoxy]-phenyl}-2-oxo-ethyl)-3-methyl-7-(3-methyl-2-buten-1-yl)-8-(3-amino-piperidin-1-yl)-xanthine | C(C)OC(=O)COC1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC=C(C)C)N1CC(CCC1)N)C)=O | C28H36N6O6
